US04380656
Employing a procedure similar to that of Example IV diethyl 2-vinylcyclopropane-1,1-dicarboxylate was reacted with a polyalkoxylated alcohol in the presence of sodium ethoxide catalyst. For the process 33.77 g (0.159 mol) diethyl 2-vinylcyclopropane-1,1-dicarboxylate and 7.12 g (0.053 mol) 2-(2-ethoxyethoxy)ethanol were heated at reflux until the theoretical amount of ethanol was recovered. After removal of unreacted diethyl 2-vinylcyclopropane-1,1-dicarboxylate (19.63 g), 8.4 g crude ethyl 2-(2-ethoxyethoxy)ethyl 2-vinylcyclopropane-1,1-dicarboxylate was obtained. Redistillation of the crude product provided 4.9 g high purity 2-(2-ethoxyethoxy)ethyl 2-vinylcyclopropane-1,1-dicarboxylate. B.p. 110°-112° C. at 0.01 mm Hg; nD24.5 1.4608. Infrared and nuclear magnetic resonance spectra were consistent with the desired structure.

reactant | diethyl 2-vinylcyclopropane-1,1-dicarboxylate | C(=C)C1C(C1)(C(=O)OCC)C(=O)OCC | C11H16O4
reactant | diethyl 2-vinylcyclopropane-1,1-dicarboxylate | 0.159 mol, 33.77 g | C(=C)C1C(C1)(C(=O)OCC)C(=O)OCC | C11H16O4
reactant | 2-(2-ethoxyethoxy)ethanol | 0.053 mol, 7.12 g | C(C)OCCOCCO | C6H14O3
catalyst | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-(2-ethoxyethoxy)ethyl 2-vinylcyclopropane-1,1-dicarboxylate | 8.4 g | C(=C)C1C(C1)(C(=O)OCC)C(=O)OCCOCCOCC | C15H24O6
